US04558043
A solution of 8.5 g (30 mmole) of 5-chloro-2-methoxy-4-(piperidin-1-yl)-phenylacetic acid in 150 ml of 48% hydrobromic acid is boiled under reflux for 15 hours. The reaction mixture is cooled, diluted with water and adjusted to pH 3-4 with saturated sodium bicarbonate solution. The whole is subsequently extracted with ethyl acetate and the combined organic phases are washed with water, dried over sodium sulphate and concentrated by evaporation in a vacuum rotary evaporator. In that manner a dark grey foam of 5-chloro-2-hydroxy-4-(piperidin-1-yl)-phenylacetic acid is obtained which is reacted, without purification, to form 5-chloro-6-(piperidin-1-yl)-benzofuran-2(3H)-one.

reactant | 5-chloro-2-methoxy-4-(piperidin-1-yl)-phenylacetic acid | 30 mmole, 8.5 g | ClC=1C(=CC(=C(C1)CC(=O)O)OC)N1CCCCC1 | C14H18ClNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | 150 ml | Br | BrH
solvent | water | O | H2O
product | 5-chloro-2-hydroxy-4-(piperidin-1-yl)-phenylacetic acid | ClC=1C(=CC(=C(C1)CC(=O)O)O)N1CCCCC1 | C13H16ClNO3
